US05235109
22 g (0.2 mole) of hydroquinone were dissolved in 60 ml of dichloroethane and 26.8 g (0.2 mole) of anhydrous aluminum chloride were added to the solution. To the obtained complex 30.8 g (0.2 mole) of phenyl-acetyl chloride in 30 ml of dichloroethane were added. Further the procedure of Example 1 was followed. 10.1 g of 2,5-dihydroxy-phenyl-benzyl-ketone were obtained, m.p.: 118°-120° C.

reactant | hydroquinone | 0.2 mole, 22 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | aluminum chloride | 0.2 mole, 26.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenyl-acetyl chloride | 0.2 mole, 30.8 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | 2,5-dihydroxy-phenyl-benzyl-ketone | 10.1 g | OC1=C(C=C(C=C1)O)C(C1=CC=CC=C1)C(=O)C(C1=CC=CC=C1)C1=C(C=CC(=C1)O)O | C27H22O5
